Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C@@:4]([C:5]([H:11])([H:12])[H:13])([O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([O:6][H:14])[H:10])([H:7])[H:9].[C:5]([H:8])([H:11])([H:12])[H:13],77.24214448634359
[N:1]([C@@:3]1([H:10])[C-:2]=[N+:7]=[C:5]([O:6][H:12])[N:4]1[H:11])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9],23.494028902937586
[C-:5]#[O+:6].[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[H:10])([H:8])[H:9].[H:7][H:12]>>[C:1](/[N:2]=[C:3](/[N:4]([C:5](=[O:6])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],30.5963229964347
[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14].[C:6](=[O:7])([H:12])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],25.36780784146611
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:4]1[O:6][H:16])([H:7])([H:8])[H:9].[C:5]([H:12])([H:13])([H:14])[H:15],110.827266619275
[C+:2]([N:3]([H:10])[H:11])=[C:4]=[N-:5].[C:1]([H:6])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],24.653183689685
[N:1]([C@:2]1([H:15])[O:3][C@:6]([O:7][H:16])([H:14])[C:5]([H:12])([H:13])[C:4]1([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],65.3139407186528
[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6]>>[N:1]1([H:6])[C:2]([C:4](=[O:5])[H:9])([H:7])[N:3]1[H:8],105.581002800164
[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15],68.6823980542513
[C:1]([C:2]#[C:3][C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]=[C:4]([H:10])[H:11])([H:8])[H:9].[C:5]([O:6][H:14])([H:7])([H:12])[H:13],81.93306681581109
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:3]=[C-:4][H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([C:6]([H:16])([H:17])[H:18])([H:13])([H:14])[H:15],127.49263555428499
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]=[C:2]=[C:3]([O:4][C:5]1([H:10])[C:6]([H:11])([H:12])[C:7]1([H:8])[H:13])[H:9],74.1132627513864
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[n:1]1([H:8])[c:2]([H:10])[c:7]([C:6](=[O:5])[H:9])[n:4][n:3]1,63.69325596245971
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13]>>[O:1]1[C:2](=[C:3]([H:8])[H:9])[C@:7]([C:5](=[O:4])[H:10])([H:13])[C:6]1([H:11])[H:12],58.7520183764099
[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5][n:6]([H:14])[n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:13])[n:5]([H:14])[n:6][n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10],46.737915986561774
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@:5]1([N:7]=[C:6]([H:11])[H:12])[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],78.7532242410153
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:5]([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:12])[H:18],60.494236209364004
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]1([O:5][H:14])[C:6]([H:15])([H:16])[C:7]1)([H:12])[H:13])([H:11])[H:17])([H:8])([H:9])[H:10],68.585489670627
[C:1]1([H:9])=[C:2]([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])=[C:5]([H:14])[O:6]1.[H:7][H:8]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9],84.1461012625205
[C:2]([H:9])[H:10].[O:1]([C@:3]1([H:11])[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],17.59772341025881
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C@@:2]([O:3][H:10])([H:9])[C@@:4]1([O:5][H:8])[H:11],86.82873211941241
[N:1]1([H:8])[O:5][C@:4]2([H:9])[O+:3]=[C-:2][C@@:6]1([H:10])[O:7]2>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],20.82520035662769
[H:12][H:15].[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:13])[C:6]([H:14])=[N:7]1>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],68.60379057770339
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])[O:6][H:18]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],15.060824706927193
